US06821971B2
Preparation of 2-(4-fluorophenyl)-1-(2-phenoxy-pyrimidin-4-yl)-3-oxo-5,6,7,8-tetrahydro-3H-pyrazolo[1,2-a]pyridazine-5-carboxylic acid (23):
To a solution of 2-(4-fluorophenyl)-1-(2-phenoxy-pyrimidin-4-yl)-3-oxo-5,6,7,8-tetrahydro-3H-pyrazolo[1,2-a]pyridazine-5-carboxylic acid methyl ester, 22, (0.02 g, 0.0143 mmol) in methanol (1 mL) and water (1 mL) is added LiOH (0.016 g, 0.65 mmol). The reaction solution is stirred at room temperature for 3 hours then quenched by the addition of 1 N HCl (20 mL). The reaction solution is extracted with ethyl acetate (3×50 mL), the organic layers are combined, washed with brine, dried, and concentrated in vacuo to afford 0.012 g (63% yield) of the desired product as a yellow solid. 1H NMR (300 MHz, CDCl3) δ 8.45 (dd, J=4.6, 2.1 Hz, 1 H), 7.14-7.44 (m, 7 H), 6.84-6.95 (m, 3 H), 4.93 (dd, J=11.7, 9.3 Hz, 1 H), 4.23 (br d, J=12.9 Hz, 1 H), 3.04-3.11 (m, 1H), 2.46-2.52 (m, 2 H), 1.71-1.93 (m, 2 H), APCI/MS: 447 (M+H).

reactant | 2-(4-fluorophenyl)-1-(2-phenoxy-pyrimidin-4-yl)-3-oxo-5,6,7,8-tetrahydro-3H-pyrazolo[1,2-a]pyridazine-5-carboxylic acid methyl ester | COC(=O)C1N2N(CCC1)C(=C(C2=O)C2=CC=C(C=C2)F)C2=NC(=NC=C2)OC2=CC=CC=C2 | C25H21FN4O4
reactant | water | 1 mL | O | H2O
reactant | LiOH | 0.65 mmol, 0.016 g | [Li+].[OH-]
solvent | methanol | 1 mL | CO | CH4O
product | 2-(4-fluorophenyl)-1-(2-phenoxy-pyrimidin-4-yl)-3-oxo-5,6,7,8-tetrahydro-3H-pyrazolo[1,2-a]pyridazine-5-carboxylic acid | 0.012 g, 63% yield | FC1=CC=C(C=C1)C=1C(N2N(CCCC2C(=O)O)C1C1=NC(=NC=C1)OC1=CC=CC=C1)=O | C24H19FN4O4
